US04172943
{{8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-(4-morpholinobutyryloxy)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea hydrochloride (XIV)
The above-titled compound was prepared according to the method of Example 8 by reacting equimolar quantities of {{8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea and 4-morpholinobutyric acid hydrochloride in the presence of dicyclohexylcarbodiimide.

reactant | {{8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)O)C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N | C28H34FN3O4
reactant | 4-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | {{8-[5-(4-Fluorophenyl)-2-pentyl]-5,5-dimethyl-10-(4-morpholinobutyryloxy)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridin-2-yl}acetyl}urea hydrochloride | Cl.FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)OC(CCCN1CCOCC1)=O)C=1CN(CCC1C(O2)(C)C)CC(=O)NC(=O)N | InChI=1S/C36H47FN4O6.ClH/c1-24(6-4-7-25-9-11-27(37)12-10-25)26-20-30(46-33(43)8-5-14-40-16-18-45-19-17-40)34-28-22-41(23-32(42)39-35(38)44)15-13-29(28)36(2,3)47-31(34)21-26;/h9-12,20-21,24H,4-8,13-19,22-23H2,1-3H3,(H3,38,39,42,44);1H
